US05616579
4-Hydroxy-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]isoxazole-3-carboxamide
375 mg of ethyl 4-hydroxy-3-isoxazolecarboxylate (prepared as described in Preparation 4) were added to a solution of 520 mg of 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine in 10 ml of toluene, and the resulting mixture was heated under reflux for 6 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residue was dissolved in ethyl acetate. The resulting solution was washed with a saturated aqueous solution of sodium hydrogencarbonate and then with a saturated aqueous solution of sodium chloride, after which it was dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel, using a 1:19 by volume mixture of methanol and ethyl acetate as the eluent, to give 228 mg (yield 31%) of the title compound as an oil.

reactant | ethyl 4-hydroxy-3-isoxazolecarboxylate | 375 mg | OC=1C(=NOC1)C(=O)OCC | C6H7NO4
reactant | 4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenylamine | 520 mg | N1(CCCCC1)CC1=CC(=NC=C1)OC\C=C/CN | C15H23N3O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 4-Hydroxy-N-[4-(4-piperidinomethyl-2-pyridyloxy) -cis-2-butenyl]isoxazole-3-carboxamide | 228 mg, yield 31% | OC=1C(=NOC1)C(=O)NC\C=C/COC1=NC=CC(=C1)CN1CCCCC1 | C19H24N4O4
